US05753657
The procedure is performed as in Example 13, but starting with 3.9 g of 10-(phenylpropylidene)-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-4-one, 180 ml of dimethylformamide, 20 ml of methanol and 0.5 g of 10% palladium on charcoal. The crude product (3.8 g) is purified by chromatography on a column of silica (380 g partially deactivated with 10 ml of water), eluting with a mixture of dichloromethane and methanol (90/10 by volume). After trituration in 10 ml of dichloromethane, filtration and drying at 100° C., 1.1 g of 10-(phenylpropyl)-5H,10H-imidazo[1,2-a]indeno-[1,2-e]pyrazin-4-one are obtained, in the form of a beige solid melting at 232° C.

reactant | 10-(phenylpropylidene)-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-4-one | 3.9 g | C1(=CC=CC=C1)CCC=C1C=2C=CC=CC2C=2NC(C=3N(C21)C=CN3)=O | C22H17N3O
reactant | dimethylformamide | 180 ml | CN(C=O)C | C3H7NO
catalyst | palladium on charcoal | 0.5 g | [Pd] | Pd
solvent | methanol | 20 ml | CO | CH4O
product | 10-(phenylpropyl)-5H,10H-imidazo[1,2-a]indeno-[1,2-e]pyrazin-4-one | 1.1 g | C1(=CC=CC=C1)CCCC1C=2C=CC=CC2C=2NC(C=3N(C21)C=CN3)=O | C22H19N3O
